US06117901
Synthesis of N-(cyclopentylacetyl)-L-alanine methyl ester
Following General Procedure D above, and using cyclopentylacetic acid (Aldrich) with L-alanine methyl ester hydrochloride (Sigma) the title compound was prepared.

reactant | cyclopentylacetic acid | C1(CCCC1)CC(=O)O | C7H12O2
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | N-(cyclopentylacetyl)-L-alanine methyl ester | COC([C@@H](NC(CC1CCCC1)=O)C)=O | C11H19NO3
